US08871753B2
Step A: 2-Iodo-4-methoxyaniline
To a suspension of 3-iodo-4-nitrophenyl methyl ether (5.0 g, 0.018 mol) in methanol (50 mL), water (5 mL), and acetic acid (10 mL) was added iron (3.00 g, 0.0538 mol) powder in small quantities. When the addition was completed, the reaction mixture was heated at 70° C. overnight. After filtration, the cake was rinsed with EtOAc. The filtrate was concentrated and the residue was diluted with NaHCO3 (aq) and EtOAc. After layer separation, the organic layer was dried, filtered and concentrated to give the desired product (4.0 g, 90%).

reactant | 3-iodo-4-nitrophenyl methyl ether | 0.018 mol, 5.0 g | COC1=CC(=C(C=C1)[N+](=O)[O-])I | C7H6INO3
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
catalyst | iron | 0.0538 mol, 3.00 g | [Fe] | Fe
product | 2-Iodo-4-methoxyaniline | 4.0 g, 90% | IC1=C(N)C=CC(=C1)OC | C7H8INO
